data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4564,"C1=CC=C(C2CC(C3=CC=CC=C3)[C:1](C3=CC=CC=C3)=[CH:2]2)C=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6363,"C1=CC([CH2:1][H:2])=CC=N1.[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3984,"BrC1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7372,"CC(O)=[O:1].CS(=O)(=O)O[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,5402,"COC1=C(Br)C=CC2=C(OC(C)C)C=C(OC=[O+:1][H:2])C=C21.O=C(C1=CC(Cl)=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1740,"C1=CC=C([N+:1]#[N:2])C=C1.CC1=C[CH:3]=[C:4](O)C=C1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1368,"CCNC(O)(CCC(=O)NC)[O:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7580,"CO[C:1](=[C:2]1CCC2CC(C)[CH:3]1[O:4]C2=O)[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8169,"N#CC1=CC=CC2=C1C=C[CH+:1][C:2]2([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9690,"COC1=CC(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])=CC=C1.O=C1CCC(=O)N1|((1, 2), 2)"
train,pmechdb_split_0,0,5240,"C[C:1](C)=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6219,"COC1=CC=C([C:1](C2=CC=CC=C2)(C2=CC=C(OC)C=C2)[OH+:2]CC2OCCC2OC(=O)CN)C=C1.O=C([O-])C(Cl)(Cl)Cl|((1, 2), 2)"
train,pmechdb_split_0,0,2471,"O[C:1](=[CH2:2])[OH:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7346,"CO[Si:1](C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,6646,"CCOC(=O)[N-:1][N:2](C(=O)OCC)[P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5503,"CC[CH2:1][O:2]S(C)(=O)=O.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4347,"C[C:1]#[C:2]C.O=S(=O)(O)[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8382,"C[C:1](C)([C-:2]1C=CC=C1)[OH:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2361,"C[C+]=C(CC(CCC1=CC=CC=C1)[O:1][Ti-]([Cl])([Cl])([Cl])[Cl])[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,10367,"CC[Si](CC)(CC)OC1(C2=CC3CCCC3C2)CCCC1C[CH:1]([O:2]C)[O+:3](C)[Sn-]([Cl])([Cl])([Cl])[Cl]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8904,"CC(C)[O-].CCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC(C)C)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2836,"CCO[C:1](CC#N)([NH2+:2]C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,450,"C=C1CCC2(OCOCCOC)C(=CCC3(C)C(O[Si](C)(C)C(C)(C)C)CCC23)C=C1C(OC(C)=O)C(CO[I:1]1(OC(C)=O)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2)OC(C)=O.CC(=O)O|((1, 2), 2)"
train,pmechdb_split_0,0,6625,"CC#[C-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3491,"C1CCC2([OH:1])NCCCC2C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1760,"COC=[NH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8311,"C[C+:1]=O.O=S(=O)(O)C1=CC=C2C(=C1)C=C[CH:2]=[CH:3]2|((2, 3), 1)"
train,pmechdb_split_0,0,5531,"ClC1=CC=C(C(C(Cl)(Cl)Cl)[OH:1])C=C1.ClC1=CC=CC=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,248,"CC[CH:1](CC)[Br:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3621,"CCOC(=O)CCCCC=CC(C1C(O[Si](C)(C)C(C)(C)C)CC(=O)C1CCC(=O)OCC)[S:1]C1=CC=CC=C1.ClC1=CC([C:2](=[OH+:3])[O:4][O-:5])=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5233,"C[C+:1]=O.O=[N+]([O-])C1=C[CH:2]=[CH:3]O1|((3, 2), 1)"
train,pmechdb_split_0,0,3665,"CCCC[N+](CCCC)(CCCC)CCCC.COCOC(=O)C1=C(OC)C2C#CC=CC#CC3N(C(=O)OCC[Si:1](C)(C)C)C4=C(C=C(O[Si](C)(C)C(C)(C)C)C=C4)C24OC34C1C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,5037,"CCN[C:1](CCC(=O)OC(C)=O)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4946,"CCCC(CC(=O)OC(C)(C)C)[CH:1]=[O:2].CCO[BH2-:3][H:4].O=C=O.[Na+]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4815,"CCC(C=O)(CCCNC(=O)CCl)CC[C:1](CC1=C([NH2:2])C=CC=C1)=[O:3].O=C(O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7594,"CCOC(=O)NN(C(=O)OCC)[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC1=CC=C(OC(CCCCC2=CC=CC=C2)C(C[OH:2])C(=O)[O-])C=C1|(2, 1)"
train,pmechdb_split_0,0,2880,"CCCCCCCC(O)C(C)(C=[N+:1](C(C)(C)C)[Li-:2][OH2+])[Si](CC)(CC)CC|((2, 1), 1)"
train,pmechdb_split_0,0,3199,"[AlH3:1].[Li][O]C(C12C(=C)C(N(C3=CC=CC=C3)S(=O)(=O)C3=CC=C(C)C=C3)N1S(=O)(=O)C1=C2C=CC=C1)[O:2]CC|(2, 1)"
train,pmechdb_split_0,0,6350,"CC1(CC[C:1]([CH2:2][H:3])=[N+:4]2CCCC2C(=O)[O-])C(=O)CCC1=O.O.O=C([O-])C1CCC[NH:5]1|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5743,"C=C[C+:1]1C=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5215,"C[CH:1]=[CH:2]C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5297,"C[Si](C)(C)C[CH2:1][O:2]C(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,2197,"CCOC(=O)[CH:1](SC1=[N+]2C(C3=CC=CC=C3)COC2(C)CCC1)[H:2].CC[N:3](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8189,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=C[CH+:4]1)C=C(C(F)(F)F)C=C2|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,879,"CCCOC(C)=[O+:1][B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,267,"C[N+:1](C)=[CH:2]OP(=O)(Cl)Cl.[Cl-:3]|(3, 2);((2, 1), 1)"
